US08895745B2
A solution of 7-Bromo-imidazol[1,2-a]pyridine (0.5 g, 2.54 mmol, 1 equivalent, made according to general procedure A1 using 4-bromo-pyridin-2-ylamine instead of 4-chloro-pyridin-2-ylamine), 1-methyl-5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1H-pyrazole (1.1 g, 5.08 mmol, 2 equivalents), bis(tri-t-butylphosphine)palladium(0) (66 mg, 0.13 mmol, 0.05 equivalents) and potassium carbonate (2.1 g, 15.24 mmol, 6 equivalents) in ethanol (10 ml), toluene (10 ml) and water (10 ml) was heated at 75° C. for 2 hours. The reaction mixture was partitioned between ethyl acetate and water. The organic layer was then washed with a saturated brine solution, dried (MgSO4), filtered and the solvent removed by evaporation in vacuo. The residue was purified by column chromatography (Biotage SP4, 25S, flow rate 25 ml/min, gradient 0% to 20% methanol in ethyl acetate) to give 7-(2-methyl-2H-pyrazol-3-yl)-imidazo[1,2,a]pyridine as a colourless oil (350 mg, 70%). MS: [M+H]30 199.

reactant | 7-Bromo-imidazol[1,2-a]pyridine | BrC1=CC=2N(C=C1)C=CN2 | C7H5BrN2
reactant | 4-bromo-pyridin-2-ylamine | BrC1=CC(=NC=C1)N | C5H5BrN2
reactant | 1-methyl-5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1H-pyrazole | 5.08 mmol, 1.1 g, 2 equivalents | CN1N=CC=C1B1OC(C(O1)(C)C)(C)C | C10H17BN2O2
reactant | potassium carbonate | 15.24 mmol, 2.1 g, 6 equivalents | C([O-])([O-])=O.[K+].[K+]
solvent | ethanol | 10 ml | C(C)O | C2H6O
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | 10 ml | O | H2O
catalyst | bis(tri-t-butylphosphine)palladium(0) | 0.13 mmol, 66 mg, 0.05 equivalents | CC(C)([P](C(C)(C)C)([Pd][P](C(C)(C)C)(C(C)(C)C)C(C)(C)C)C(C)(C)C)C
product | 7-(2-methyl-2H-pyrazol-3-yl)-imidazo[1,2,a]pyridine | 350 mg, 70% | CN1N=CC=C1C1=CC=2N(C=C1)C=CN2 | C11H10N4
